US09290472B2
Trimethylacetyl chloride (3.69 g) was added to a mixture of methyl 2-amino-6-hydroxybenzoate (prepared according to Comess et al, US2004 0167128, 3.99 g) and sodium bicarbonate (2.57 g) in ethyl acetate (77 mL) and water (18 mL). The reaction mixture was stirred at room temperature for 1 hour. A further amount of trimethylacetyl chloride (1.85 g) was added and the mixture was stirred for 1 hour. A further amount of trimethylacetyl chloride (0.920 g) was added and the mixture was stirred for 30 minutes. The mixture was diluted with ethyl acetate, the layers were separated and the organic layer was dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and cyclohexane, with a gradient of 5-25% to give methyl 2-(2,2-dimethylpropionylamino)-6-hydroxybenzoate (5.79 g) as a white solid.

reactant | Trimethylacetyl chloride | 3.69 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | methyl 2-amino-6-hydroxybenzoate | 3.99 g | NC1=C(C(=O)OC)C(=CC=C1)O | C8H9NO3
reactant | sodium bicarbonate | 2.57 g | C([O-])(O)=O.[Na+]
reactant | trimethylacetyl chloride | 1.85 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | trimethylacetyl chloride | 0.920 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | ethyl acetate | 77 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 18 mL | O | H2O
product | methyl 2-(2,2-dimethylpropionylamino)-6-hydroxybenzoate | 5.79 g | CC(C(=O)NC1=C(C(=O)OC)C(=CC=C1)O)(C)C | C13H17NO4
